US08247403B2
(2) 9-(2-thienyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(2-thienyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (160 mg, 0.483 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (111 mg, 86.0%) as a solid.

reactant | tert-butyl 9-(2-thienyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.483 mmol, 160 mg | S1C(=CC=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H21NO3S
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(2-thienyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 111 mg, 86.0% | Cl.S1C(=CC=C1)C1=CC=CC=2CNCCOC21 | InChI=1S/C13H13NOS.ClH/c1-3-10-9-14-6-7-15-13(10)11(4-1)12-5-2-8-16-12;/h1-5,8,14H,6-7,9H2;1H
